US07084139B2
6-Chloro-N-{(3S)-1-[(1R)-1-methyl-2-(3-methylpiperidin-1-yl)-2-oxoethyl]-2-oxopyrrolidin-3-yl}naphthalene-2-sulfonamide
To a solution of (2R)-2-((3S)-3-{[(6-chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoic acid (0.018 g) in DCM (0.5 ml) were added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (0.018 g), HOBT (0.013 g) and triethylamine (0.039 ml) and the mixture was stirred at room temperature for 75 min. 3-Methylpiperidine (0.010 ml) was added and the resultant mixture stirred at room temperature for 48 h. The mixture was partitioned between DCM and saturated sodium bicarbonate solution and then passed through a hydrophobic frit. The organic extract concentrated under reduced pressure and the residue was purified using SPE (silica, eluting with cyclohexane:ethyl acetate 2:1, 1:1; ethyl acetate; ethyl acetate:methanol 2:1, 1:1) to give the title compound (0.007 g) as a white solid.

reactant | (2R)-2-((3S)-3-{[(6-chloro-2-naphthyl)sulfonyl]amino}-2-oxopyrrolidin-1-yl)propanoic acid | 0.018 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H]1C(N(CC1)[C@@H](C(=O)O)C)=O | C17H17ClN2O5S
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.018 g | Cl.CN(CCCN=C=NCC)C
reactant | HOBT | 0.013 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-Methylpiperidine | 0.010 ml | CC1CNCCC1 | C6H13N
solvent | DCM | 0.5 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 0.039 ml | C(C)N(CC)CC | C6H15N
product | 6-Chloro-N-{(3S)-1-[(1R)-1-methyl-2-(3-methylpiperidin-1-yl)-2-oxoethyl]-2-oxopyrrolidin-3-yl}naphthalene-2-sulfonamide | 0.007 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N[C@@H]1C(N(CC1)[C@@H](C(=O)N1CC(CCC1)C)C)=O | C23H28ClN3O4S
